US09024041B2
1-(3-(tert-Butyl)-1-(p-tolyl)-1H-pyrazol-5-yl)-3-(4-((2-(3-ethylureido)pyridin-4-yl)methyl)naphthalen-1-yl)urea
To a solution of 1-(4-((2-aminopyridin-4-yl)methyl)naphthalen-1-yl)-3-(3-(tert-butyl)-1-(p-tolyl)-1H-pyrazol-5-yl)urea (55 mg, 0.11 mmol) in dry DCM (4.0 mL) under N2 at 0° C. was added ethyl isocyanate (22 μL, 0.27 mmol). The reaction mixture was maintained at 0° C. for 20 min, was then warmed to RT for 2 hr and dry DMF (200 μL) was added. Additional aliquots of ethyl isocyanate were added after 3.5 hr (22 μL, 0.27 mmol), after 21 hr (43 μL, 0.54 mmol) and after 28 hr (65 μL, 0.81 mmol). After 43 hr the reaction was quenched by the addition of a solution of NH3 (1% in MeOH, 3.0 mL) and after 45 min the resulting mixture was evaporated in vacuo. The residue was subjected to SCX capture and release and the crude product so obtained was purified by flash column chromatography (SiO2, 12 g, [5% MeOH in EtOAc] in isohexane, 0-80%, gradient elution) to afford the title compound, Example 23, as a white solid (26 mg, 40%); Rt 2.22 min (Method 2); m/z 576 (M+H)+ (ES+); 1H NMR (400 MHz, DMSO-d6) δ: 1.04 (3H, t), 1.28 (9H, s), 2.39 (3H, s), 3.14 (2H, m), 4.33 (2H, s), 6.40 (1H, s), 6.76 (1H, dd), 7.16 (1H, s), 7.36 (2H, d), 7.39 (1H, d), 7.45 (2H, d), 7.53 (2H, m), 7.87 (1H, d), 7.92 (1H, d), 8.01-8.04 (2H, overlapping m), 8.15 (1H, br t), 8.78 (1H, s), 9.04 (1H, s), 9.07 (1H, s).

reactant | 1-(4-((2-aminopyridin-4-yl)methyl)naphthalen-1-yl)-3-(3-(tert-butyl)-1-(p-tolyl)-1H-pyrazol-5-yl)urea | 0.11 mmol, 55 mg | NC1=NC=CC(=C1)CC1=CC=C(C2=CC=CC=C12)NC(=O)NC1=CC(=NN1C1=CC=C(C=C1)C)C(C)(C)C | C31H32N6O
reactant | ethyl isocyanate | 0.27 mmol, 22 μL | C(C)N=C=O | C3H5NO
reactant | DMF | 200 μL | CN(C)C=O | C3H7NO
solvent | DCM | 4.0 mL | C(Cl)Cl | CH2Cl2
product | 1-(3-(tert-Butyl)-1-(p-tolyl)-1H-pyrazol-5-yl)-3-(4-((2-(3-ethylureido)pyridin-4-yl)methyl)naphthalen-1-yl)urea | C(C)(C)(C)C1=NN(C(=C1)NC(=O)NC1=CC=C(C2=CC=CC=C12)CC1=CC(=NC=C1)NC(=O)NCC)C1=CC=C(C=C1)C | C34H37N7O2
